US05194442
Trans-5-(1,2-dihydro-2-oxo-pyrid-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol
6.40 g (20 mmol) of tetrabutylammonium fluoride trihydrate are added to a mixture of 3.24 g (20 mmol) of 4,5-epoxy-2,3,4,5-tetrahydro-1-benzoxepin and 10 g (60 mmol) of 2-trimethylsilyoxy-pyridine, and the mixture is heated at 80°-90° C. with stirring. After a reaction time of 5 hours, the mixture is slowly stirred into ice-water, and the precipitated solid is filtered off with suction and recrystallized from methanol with the addition of small amounts of dioxane. Crystals of melting point 232°-234° C. are obtained.

reactant | tetrabutylammonium fluoride trihydrate | 20 mmol, 6.40 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4,5-epoxy-2,3,4,5-tetrahydro-1-benzoxepin | 20 mmol, 3.24 g | O1C2CCOC3=C(C21)C=CC=C3 | C10H10O2
reactant | 2-trimethylsilyoxy-pyridine | 60 mmol, 10 g | C[Si](OC1=NC=CC=C1)(C)C | C8H13NOSi
product | Trans-5-(1,2-dihydro-2-oxo-pyrid-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol | O=C1N(C=CC=C1)[C@H]1[C@@H](CCOC2=C1C=CC=C2)O | C15H15NO3
